US08012998B2
d) (3R,4S)-1-Benzyl-4-(3,4-difluoro-phenyl)-pyrrolidine-3-carbaldehyde
To a solution of (3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidine-3-carboxylic acid methoxy-methyl-amide 3.24 g (9 mmol) dissolved in THF (60 mL) was added 9 mL (9 mmol) of lithiumaluminiumhydride (1.0M in THF) dropwise at 0° C. and stirred for one hour. The reaction was quenched by aq. ammonium chloride solution and extracted with ethylacetate twice. The combined organic layers were dired on anhydrous sodium sulfate and concentrated in vaccuo. The residue was purified by silica gel column chromatography eluted by a mixture of heptane and ethyl acetate (3:2) yielding 2.7 g (99%) of the title compound as a light yellow oil. ES-MS m/e: 302.1 (M+H+).

reactant | (3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidine-3-carboxylic acid methoxy-methyl-amide | 9 mmol, 3.24 g | CON(C(=O)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)F)F)CC1=CC=CC=C1)C | C20H22F2N2O2
reactant | lithiumaluminiumhydride | 9 mmol, 1.0M, 9 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (3R,4S)-1-Benzyl-4-(3,4-difluoro-phenyl)-pyrrolidine-3-carbaldehyde | 2.7 g, 99% | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)F)F)C=O | C18H17F2NO
